US06110933
(S)-Methyl 3-hydroxyhexadecanoate and 2,2,2-trichloroethyl alcohol were reacted according to a similar manner to that of Preparation 1 to give (S)-(2,2,2-trichloroethyl) 3-hydroxyhexadecanoate.

reactant | (S)-Methyl 3-hydroxyhexadecanoate | O[C@H](CC(=O)OC)CCCCCCCCCCCCC | C17H34O3
reactant | 2,2,2-trichloroethyl alcohol | ClC(CO)(Cl)Cl | C2H3Cl3O
product | (S)-(2,2,2-trichloroethyl) 3-hydroxyhexadecanoate | O[C@H](CC(=O)OCC(Cl)(Cl)Cl)CCCCCCCCCCCCC | C18H33Cl3O3
